US05189040
In 10 ml of acetonitrile were stirred 2.7 g (10 mmol) of 1,3-dimethyl-4-(2,4-dichlorobenzyl)-5-hydroxypyrazole, 1.5 g (10 mmol) of 2,4-dichloropyrimidine and 1.5 g (11 mmol) of potassium carbonate with refluxing for 3 hours. After completing the reaction, the reaction mixture was purified as the same manner as described in Example 4 to give 1.63 g of 1,3-dimethyl-4-(2,4-dichlorobenzyl)-5-(2-chloropyrimidine-4-yloxy)pyrazole.

reactant | 1,3-dimethyl-4-(2,4-dichlorobenzyl)-5-hydroxypyrazole | 10 mmol, 2.7 g | CN1N=C(C(=C1O)CC1=C(C=C(C=C1)Cl)Cl)C | C12H12Cl2N2O
reactant | 2,4-dichloropyrimidine | 10 mmol, 1.5 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 11 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,3-dimethyl-4-(2,4-dichlorobenzyl)-5-(2-chloropyrimidine-4-yloxy)pyrazole | 1.63 g | CN1N=C(C(=C1OC1=NC(=NC=C1)Cl)CC1=C(C=C(C=C1)Cl)Cl)C | C16H13Cl3N4O
